US07572915B2
To a solution of 4-nitro-1H-indazole (1.57 g, Journal of Heterocyclic Chemistry 1979, 16(8), 1599-603) and di-tert-butyldicarbonate (2.33 g) in acetonitrile (30 ml) was added N,N-dimethyl-4-aminopyridine (0.059 g). The reaction mixture was stirred at room temperature for 30 min, then concentrated in vacuo to leave a brown solid which was purified by silica SPE, eluting sequentially with dichloromethane and diethyl ether to give 1,1-dimethylethyl 4-nitro-1H-indazole-1-carboxylate as a yellow solid (1.9 g).

reactant | 4-nitro-1H-indazole | 1.57 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | di-tert-butyldicarbonate | 2.33 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
catalyst | N,N-dimethyl-4-aminopyridine | 0.059 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 1,1-dimethylethyl 4-nitro-1H-indazole-1-carboxylate | 1.9 g | [N+](=O)([O-])C1=C2C=NN(C2=CC=C1)C(=O)OC(C)(C)C | C12H13N3O4
